US07687491B2
(8b) [(2-Bromo-4,5,6,7-tetrahydro-1-benzothiophen-4-yl)oxy](t-butyl)dimethylsilane
To a solution of 2-bromo-4,5,6,7-tetrahydro-1-benzothiophen-4-ol (5.0 g, 21 mmol) that was obtained in Example 8 (8a) in N,N-dimethylformamide (30 ml) were added successively imidazole (2.9 g, 43 mmol) and t-butyldimethylchlorosilane (3.5 g, 24 mmol) with stirring, and the resulting mixture was stirred for 2 hours. After stirring, the reaction mixture was poured into water (50 ml) to quench the reaction and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9) as the eluent to afford the title compound (6.8 g) in a yield of 91% as a colourless oily product.

reactant | 2-bromo-4,5,6,7-tetrahydro-1-benzothiophen-4-ol | 21 mmol, 5.0 g | BrC=1SC2=C(C1)C(CCC2)O | C8H9BrOS
reactant | imidazole | 43 mmol, 2.9 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 24 mmol, 3.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [(2-Bromo-4,5,6,7-tetrahydro-1-benzothiophen-4-yl)oxy](t-butyl)dimethylsilane | yield of 91% | BrC=1SC2=C(C1)C(CCC2)O[Si](C)(C)C(C)(C)C | C14H23BrOSSi
